US04076849
(a) p-Phenoxy-N-hexanoylaminobenzene
A suspension of p-phenoxyaminobenzene (3.4g, 0.019 mole) in aqueous sodium hydroxide (100 ml. 12% NaOH) was stirred magnetically. Hexanoyl chloride (2.80g, 0.021 mole) was added dropwise over five minutes. The suspension was stirred for one hour and shaken with water-methylene chloride. The organic layer was washed twice with water, dried over anh. sodium sulphate and evaporated to dryness, in vacuo. Weight of beige solid; 4.30g, 81%, m.p. 69°-76° C. A portion (4.14g) was crystallized from chloroform-hexane, filtered and dried for 16 hours at 48° C./10 mm. Weight of beige solid -- 2.24g, m.p. 96°-98.5° C., sinters at 93° C. Recrystallized from the same solvents gave 1.90g beige crystals, m.p. 98.5°-99.5° C.

reactant | p-phenoxyaminobenzene | 0.019 mole, 3.4g | O(C1=CC=CC=C1)NC1=CC=CC=C1 | C12H11NO
reactant | Hexanoyl chloride | 0.021 mole, 2.80g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | water methylene chloride | O.C(Cl)Cl
solvent | sodium hydroxide | 100 ml | [OH-].[Na+]
product | p-Phenoxy-N-hexanoylaminobenzene | 1.90g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(CCCCC)=O | C18H21NO2
